US06835732B2
5-Methyl-thiophene-2-carboxylic acid [7-(3-nitro-phenyl)-4-methoxy-benzothiazol-2-yl]-amide is synthesized from 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide (155 mg, 0.36 mmol) and 3-nitrophenylboronic acid (135 mg, 0.81 mmol) using the general procedure A as a light yellow crystalls in 42% yield. MS: m/e=425 (M+).

reactant | 5-methyl-thiophene-2-carboxylic acid (7-iodo-4-methoxy-benzothiazol-2-yl)-amide | 0.36 mmol, 155 mg | IC1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C14H11IN2O2S2
reactant | 3-nitrophenylboronic acid | 0.81 mmol, 135 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 5-Methyl-thiophene-2-carboxylic acid [7-(3-nitro-phenyl)-4-methoxy-benzothiazol-2-yl]-amide | 42% yield | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C20H15N3O4S2
